US06017426
Preparation of 2-octadecanoylaminooctadecane-1,3-diol
6.2 g (0.022 mol) of stearic acid and 6 g (0.022 mol) of 2-aminooctadecane-1,3-diol were mixed in a tube and irradiated with the apparatus used in Example 1, under the same frequency and power conditions. After an irradiation of 18 minutes at 140° C.±5° C., the reaction mixture was solubilized in a mixture of 80 ml of ethyl acetate and 40 ml of heptane. The precipitate obtained was recrystallized from ethanol and 8.1 g of expected pure product were obtained with a yield of 72%.

reactant | stearic acid | 0.022 mol, 6.2 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | 2-aminooctadecane-1,3-diol | 0.022 mol, 6 g | NC(CO)C(CCCCCCCCCCCCCCC)O | C18H39NO2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | heptane | 40 ml | CCCCCCC | C7H16
product | 2-octadecanoylaminooctadecane-1,3-diol | yield of 72% | C(CCCCCCCCCCCCCCCCC)(=O)NC(CO)C(CCCCCCCCCCCCCCC)O | C36H73NO3
